US04728653
To a stirred suspension of 8-methyl-6-(2,4-dimethylimidazol-1-yl)-2-(1H)-quinolone (0.5 g) in chloroform (10 cm3) was added N-bromosuccinimide (NBS) (0.374 g) at room temperature. After 5 minutes the reaction mixture was evaporated to dryness and the residue chromatographed on silica (Merck "MK 60.9385" [Trade Mark]) eluting with ethyl acetate:methanol, 10:1. Combination and evaporation of the appropriate fractions afforded a solid which on recrystallisation from ethyl acetate/methanol gave 8-methyl-6-(5-bromo-2,4-dimethylimidazol-1-yl)-2-(1H)-quinolone, m.p. 273°, (0.277 g).

reactant | 8-methyl-6-(2,4-dimethylimidazol-1-yl)-2-(1H)-quinolone | 0.5 g | CC=1C=C(C=C2C=CC(NC12)=O)N1C(=NC(=C1)C)C | C15H15N3O
reactant | N-bromosuccinimide | 0.374 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 10 cm3 | C(Cl)(Cl)Cl | CHCl3
product | 8-methyl-6-(5-bromo-2,4-dimethylimidazol-1-yl)-2-(1H)-quinolone | CC=1C=C(C=C2C=CC(NC12)=O)N1C(=NC(=C1Br)C)C | C15H14BrN3O
